data/oMe_Silver.jsonl
{"reaction_id": "NR-111_1-c1ccccc1_2-C_3-CCCC(C)C_4-C(C)(C)C_5-C(C)(C)C_6-CCCC(C)C_7-C(F)(F)F","name": "Hosomi-Sakurai Reaction","level": "medium","reactants_smiles": ["C(=C(C(C)(C)C)C(C)(C)C)(CCCC(C)C)C(c1ccccc1)(C)[Si](C)(C)C","C(=O)(CCCC(C)C)C(F)(F)F","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C(C(C)(C)C)C(C)(C)C)(CCCC(C)C)C(c1ccccc1)(C)C(O)(CCCC(C)C)C(F)(F)F"],"conditions": "Lewis Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Ti](Cl)(Cl)Cl)(CCCC(C)C)C(F)(F)F","rationale": "TiCl4, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon for nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[Si](C)(C)(C)C(c1ccccc1)(C)[C+](CCCC(C)C)C(C(C)(C)C)(C(C)(C)C)C(O[Ti](Cl)(Cl)Cl)(CCCC(C)C)C(F)(F)F","rationale": "The allylsilane attacks the activated carbonyl; β-silicon stabilization of the developing carbocation lowers the activation barrier under Lewis acidic conditions."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C(C)(C)C)C(C)(C)C)(CCCC(C)C)C(c1ccccc1)(C)C(O[Ti](Cl)(Cl)Cl)(CCCC(C)C)C(F)(F)F","rationale": "Loss of the silyl group occurs as the β-silyl carbocation collapses, restoring the alkene and forming a C–O–Ti bond, driven by the stability of the alkene and Ti–O bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C(C)(C)C)C(C)(C)C)(CCCC(C)C)C(c1ccccc1)(C)C(O)(CCCC(C)C)C(F)(F)F","rationale": "Proton transfer from solvent or medium to the alkoxide–Ti complex releases the neutral alcohol, favored by the strong Ti–O bond cleavage upon protonation."}],"description": "In the Hosomi–Sakurai reaction, a Lewis acid activates the carbonyl toward nucleophilic attack by an allylsilane. Titanium tetrachloride coordinates to the carbonyl oxygen, enhancing electrophilicity. The allylsilane attacks, forming a β-silyl carbocation stabilized by hyperconjugation. Elimination regenerates the alkene, and proton transfer yields the alcohol product."}
{"reaction_id": "NR-244_1-CC_4-c2ccc(N(=O)=O)cc2","level": "easy","name": "Stork Enamine Synthesis","reactants_smiles": ["C(CC)(=C)N1CCCC1","C(c2ccc(N(=O)=O)cc2)Br"],"products_smiles": ["C(=O)(CC)CC(c2ccc(N(=O)=O)cc2)"],"conditions": "H2O","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(CC)(=[N+]1CCCC1)CC(c2ccc(N(=O)=O)cc2)","step_weight": 0,"rationale": "The enamine's electron-rich α-carbon attacks the electrophilic carbon in the alkyl halide via SN2, favored by the good leaving ability of bromide and minimal steric hindrance at the electrophilic site."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC)(N1CCCC1)(CCc2ccc(N(=O)=O)cc2)[OH2+]","step_weight": 0,"rationale": "Water, activated by the iminium's strong electrophilicity, adds to the iminium carbon due to resonance stabilization of the positive charge on nitrogen, facilitating nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)([NH+]1CCCC1)(CCc2ccc(N(=O)=O)cc2)O","step_weight": 0,"rationale": "Proton transfer from the oxonium to nitrogen relieves positive charge on oxygen, stabilizing the intermediate and preparing for C–N bond cleavage."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(CC)(=[OH+])CC(c2ccc(N(=O)=O)cc2)","step_weight": 0,"rationale": "Elimination of the amine occurs as nitrogen's lone pair reforms, expelling it as a leaving group; the driving force is formation of the strong C=O double bond."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(CC)CC(c2ccc(N(=O)=O)cc2)","step_weight": 0,"rationale": "Deprotonation of the protonated carbonyl restores neutrality, favored by the stability of the neutral ketone under aqueous conditions."}],"description": "The enamine acts as a nucleophile toward the alkyl halide via SN2, forming an iminium intermediate. Subsequent aqueous hydrolysis converts the iminium to a carbonyl through nucleophilic addition of water, proton transfers, and elimination, yielding the ketone product."}
